US05177075
3,4-Dihydro-5-[(phenylmethyl)amino]-1(2H)-isoquinolinone
To a solution of 2.0 g (12.3 mmol) of 5-amino-3,4-dihydro-1(2H)-isoquinolinone, monohydrochloride in 10 ml of THF was added 2.6 g (14.76 mmol) of benzylbromide and 2 ml of triethylamine. The mixture was heated under reflux for six hours and then poured into ice water and extracted with ether. The ether extracts were washed with water, dried (MgSO4), and concentrated. The residue was chromatographed (SiO2, ether to 10:1 ether/methanol) to provide 0.6 g of the dibenzylated product and 0.95 g (31%) of the desired monobenzylated product after crystallization from ethanol; mp. 142°-144°.

reactant | 5-amino-3,4-dihydro-1(2H)-isoquinolinone, monohydrochloride | 12.3 mmol, 2.0 g | Cl.NC1=C2CCNC(C2=CC=C1)=O
reactant | benzylbromide | 14.76 mmol, 2.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,4-Dihydro-5-[(phenylmethyl)amino]-1(2H)-isoquinolinone | 0.6 g | C1(=CC=CC=C1)CNC1=C2CCNC(C2=CC=C1)=O | C16H16N2O
